US05122523
650 mg of ethyl 2-isobutyl-2-propenoate was dissolved in 3 ml of methylmercaptan, and 50 mg of potassium tert-butoxide was added thereto. The mixture was stirred at room temperature for two hours. The reaction solution was diluted with 60 ml of ethyl acetate, washed with water and then with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 660 mg of ethyl 2-ethylthiomethyl-4-methylpentanoate as colorless oily substance.

reactant | ethyl 2-isobutyl-2-propenoate | 650 mg | C(C(C)C)C(C(=O)OCC)=C | C9H16O2
reactant | potassium tert-butoxide | 50 mg | CC(C)([O-])C.[K+]
reactant | methylmercaptan | 3 ml | CS | CH4S
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-ethylthiomethyl-4-methylpentanoate | 660 mg | C(C)SCC(C(=O)OCC)CC(C)C | C11H22O2S
